* C:\Users\khduh\Documents\LTspiceXVII\file\Dual_Active_Bridge_Converter\Draft3.asc
V1 N001 0 800 Rser=0.001
V2 N003 N007 PULSE(0 10 0 1n 1n 10u 20u)
D1 N007 N001 MBR20100CT
C1 N001 N007 10n
V3 N013 0 PULSE(0 10 0 1n 1n 10u 20u)
D2 0 N008 MBR20100CT
C2 N008 0 10n
V4 N012 0 PULSE(0 10 10u 1n 1n 10u 20u)
D3 0 N007 MBR20100CT
C3 N007 0 10n
V5 N004 N008 PULSE(0 10 10u 1n 1n 10u 20u)
D4 N008 N001 MBR20100CT
C4 N001 N008 10n
L1 N007 N011 80µ
L2 N011 N008 20m
L3 N009 N010 7.8125m
V7 N005 N009 PULSE(0 10 5u 1n 1n 10u 20u)
D5 N009 N002 MBR20100CT
C5 N002 N009 10n
V8 N015 0 PULSE(0 10 5u 1n 1n 10u 20u)
D6 0 N010 MBR20100CT
C6 N010 0 10n
V9 N014 0 PULSE(0 10 15u 1n 1n 10u 20u)
D7 0 N009 MBR20100CT
C7 N009 0 10n
V10 N006 N010 PULSE(0 10 15u 1n 1n 10u 20u)
D8 N010 N002 MBR20100CT
C8 N002 N010 10n
C9 N002 0 60µ
R1 N002 0 16.6
M10 N002 N005 N009 N009 SPA11N60C3
M5 N002 N006 N010 N010 SPA11N60C3
M6 N010 N015 0 0 SPA11N60C3
M8 N009 N014 0 0 SPA11N60C3
M1 N001 N004 N008 N008 SPA11N60C3
M2 N008 N013 0 0 SPA11N60C3
M3 N007 N012 0 0 SPA11N60C3
M4 N001 N003 N007 N007 SPA11N60C3
.model D D
.lib C:\Users\khduh\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\khduh\Documents\LTspiceXVII\lib\cmp\standard.mos
K L2 L3 1
.tran 0 10m 0 uic
.backanno
.end
